US05693651
(2) 3-amino-7-(5-ethyl-2-pyridylmethoxy)quinoline
In ethanol (20 mL) was suspended 3-nitro-7-(5-ethyl-2-pyridylmethoxy)quinoline (700 mg, 2.26 mmol.), and to the suspension was added platinum oxide (80 mg). Then, catalytic reduction was performed for 3 hours. After the completion of reaction was confirmed, the reaction mixture was filtered over Celite®, and the filtrate was placed under reduced pressure to give the desired compound as residual oil in a quantitative yield.

reactant | 3-nitro-7-(5-ethyl-2-pyridylmethoxy)quinoline | 2.26 mmol, 700 mg | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1)OCC1=NC=C(C=C1)CC | C17H15N3O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | platinum oxide | 80 mg | [Pt]=O
product | 3-amino-7-(5-ethyl-2-pyridylmethoxy)quinoline | quantitative yield | NC=1C=NC2=CC(=CC=C2C1)OCC1=NC=C(C=C1)CC | C17H17N3O
